US05157041
A solution of 0.45 g of N2 -[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -phenyl-L-prolinamide in 20 ml of ethanol was hydrogenated over 10% palladium-on-carbon for 4 hours to give 0.315 g of N2 -[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -phenyl-L-prolinamide in the form of a white solid; MS: m/e 354 [M+H]+.

reactant | N2 [3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -phenyl-L-prolinamide | 0.45 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C1=CC=CC=C1)C(=O)N)O)CC1=CC=CC=C1
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N2 [3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -phenyl-L-prolinamide | 0.315 g | N#N.N[C@H]([C@@H](C[C@@]1(N(CCC1)C1=CC=CC=C1)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C21H27N3O2.N2/c22-18(14-16-8-3-1-4-9-16)19(25)15-21(20(23)26)12-7-13-24(21)17-10-5-2-6-11-17;1-2/h1-6,8-11,18-19,25H,7,12-15,22H2,(H2,23,26);/t18-,19+,21+;/m0./s1
